US06551682B1
(18) Production of 1-(3-propoxy-2-pyridylazo)-2-naphthol (No. L132)
Next, a flask was loaded with sodium ethylate (1.6 g), ethanol (14 ml), and 2-amino-3-propoxypyridine (3.8 g), and they were mixed. To the mixture, isopentyl nitrite (2.7 g) was dropwise added in 20 minutes with stirring. This was stirred at the reflux temperature for 4 hours, and then cooled to room temperature. Thereafter, to this, 2-naphthol (2.0 g) dissolved in ethanol (5 ml) was dropwise added in one hour. After stirring at room temperature for two hours, this mixture was heated to the reflux temperature, followed by stirring for additional 2 hours. The reaction mixture was filtrated and the filtrate was condensed to precipitate crystals. The crystals were filtrated for collection and recrystallized with dioxane-water to give intended crystals (0.59 g).

reactant | sodium ethylate | 1.6 g | CC[O-].[Na+]
reactant | 2-amino-3-propoxypyridine | 3.8 g | NC1=NC=CC=C1OCCC | C8H12N2O
reactant | isopentyl nitrite | 2.7 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 2-naphthol | 2.0 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | 1-(3-propoxy-2-pyridylazo)-2-naphthol | C(CC)OC=1C(=NC=CC1)N=NC1=C(C=CC2=CC=CC=C12)O | C18H17N3O2
